US07595414B2
In a 300 mL-volume flask equipped with a stirrer, a thermometer and a dropping funnel was placed 29.0 g (258 mmol) of potassium t-butoxide, and the flask was purged with argon. Then, 120 mL of methylcyclohexanone was placed in the flask. Subsequently, 15.0 g (127 mmol) of methyl 2-methoxypropionate (prepared by the method of Reference Example 1) was dropped under cooling with ice, and further 7.40 g (127 mmol) of acetone was slowly dropped. The mixture was cooled to 10° C. and stirred for 30 minutes for carrying out a reaction. After the reaction was complete, 1,200 mL of water was placed in the flask under cooling with ice. The aqueous portion was taken out, neutralized with acetic acid, and subjected to extraction with methylcyclohexane. The methylcyclohexane extract was washed with water, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated and distilled under reduced pressure (66° C., 1.38 kPa) to give 9.63 g (yield: 53%) of 2-methoxy-3,5-hexanedione as colorless liquid.

reactant | potassium t-butoxide | 258 mmol, 29.0 g | CC(C)([O-])C.[K+]
reactant | methyl 2-methoxypropionate | 127 mmol, 15.0 g | COC(C(=O)OC)C | C5H10O3
reactant | acetone | 127 mmol, 7.40 g | CC(=O)C | C3H6O
reactant | water | 1,200 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methoxy-3,5-hexanedione | 9.63 g, yield: 53% | COC(C)C(CC(C)=O)=O | C7H12O3
